US04226616
A solution of 0.1 g of metallic sodium in 8 ml of methanol was added to a solution of 1.2 g (0.002 mole) of 2,4-bis(2-chloro-4-trifluoromethoxy-phenoxy)nitrobenzene in benzene. The mixture was heated with stirring at 40°-50° C. in a water bath for 1.5 hours. The reaction mixture was thoroughly washed with a dilute aqueous sodium hydroxide solution and then with water, dehydrated over anhydrous sodium sulfate, and freed from the benzene by distillation to obtain a crude product. The crude product was purified by chromatography on silica gel to obtain 0.7 g of the intended product (nD20 1.5562; 84% yield). 2,4-Bis(2-chloro-4-trifluoromethoxyphenoxy)-nitrobenzene was synthesized in the following way: 11.0 Grams (0.044 mole) of potassium 2-chloro-4-trifluoromethoxyphenolate and 3.2 g (0.017 mole) of 2,4-dichloronitrobenzene were heated under reflux in 100 ml of dimethylformamide for one hour. After cooling, the reaction mixture was poured into about 500 ml of water and then extracted with benzene. The benzene layer was thoroughly washed successively with dilute aqueous sodium hydroxide solution, dilute hydrochloric acid and water, then dehydrated, and concentrated. The resulting oily substance was distilled under reduced pressure to obtain 5.3 g (57% yield) of the intended product boiling at 170°-185° C./0.1 mmHg.

reactant | potassium 2-chloro-4-trifluoromethoxyphenolate | 0.044 mole | ClC1=C(C=CC(=C1)OC(F)(F)F)[O-].[K+]
reactant | 2,4-dichloronitrobenzene | 0.017 mole, 3.2 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | water | about 500 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2,4-Bis(2-chloro-4-trifluoromethoxyphenoxy)-nitrobenzene | ClC1=C(OC2=C(C=CC(=C2)OC2=C(C=C(C=C2)OC(F)(F)F)Cl)[N+](=O)[O-])C=CC(=C1)OC(F)(F)F | C20H9Cl2F6NO6
